US05883102
Ethyl 4'-aminospiro[pyrrolidine-3,2'(1'H)-quinazoline]-1-carboxylate hydrochloride
This was prepared by the method of Example 173 using 2-aminobenzamidine hydrochloride and ethyl 3-oxopyrrolidine-1-carboxylate to give the title compound, MS (+EI) 274 ([M+H]+), 1H NMR (d6 -DMSO) (rotamers) 10.48 (1H, s), 9.2-8.2 (2H, m), 7.94 (1H, s), 7.88 (1H, d), 7.49 (1H, t), 6.89 (1H, d), 6.85 (1H, t), 4.04 (2H, dt), 3.6-3.4 (4H, m) 2.86-2.7 (1H, m), 2.09-2.02 (1H, m), 1.18 (3H, dq).

reactant | 2-aminobenzamidine hydrochloride | Cl.NC1=C(C(=N)N)C=CC=C1
reactant | ethyl 3-oxopyrrolidine-1-carboxylate | O=C1CN(CC1)C(=O)OCC | C7H11NO3
product | Ethyl 4'-aminospiro[pyrrolidine-3,2'(1'H)-quinazoline]-1-carboxylate hydrochloride | Cl.NC1=NC2(NC3=CC=CC=C13)CN(CC2)C(=O)OCC | InChI=1S/C14H18N4O2.ClH/c1-2-20-13(19)18-8-7-14(9-18)16-11-6-4-3-5-10(11)12(15)17-14;/h3-6,16H,2,7-9H2,1H3,(H2,15,17);1H
